US08580762B2
7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(methyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine
A solution of N-(2-amino-4-(tert-butyl)phenyl)-3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanamide (0.24 g, 0.32 mmol) in Acetic acid (5 ml, 90 mmol) was stirred overnight at 60° C. The volatiles were removed in vacuo and remaining residue partitioned between Na2CO3 (2N) and DCM. The aqueous layer was extracted 3× with DCM and the combined organics dried with MgSO4, filtered and concentrated The residue was purified by flash chromatography (DCM/7N NH3 in MeOH 94:6) to yield the desired compound (0.20 g) as a solid.

reactant | N-(2-amino-4-(tert-butyl)phenyl)-3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanamide | 0.32 mmol, 0.24 g | NC1=C(C=CC(=C1)C(C)(C)C)NC(CCC1CC(C1)N(C)C[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC)=O | C42H57N7O5
reactant | Acetic acid | 90 mmol, 5 ml | C(C)(=O)O | C2H4O2
product | 7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(methyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.20 g | C(C)(C)(C)C1=CC2=C(NC(=N2)CCC2CC(C2)N(C)C[C@H]2C[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2NCC2=C(C=C(C=C2)OC)OC)C=C1 | C42H55N7O4
